US07253196B2
2-(cycloheptylamino)-5-ethyl-1,3-thiazol-4(5H)-one
Synthesis was performed from N-cycloheptylthiourea and 2-bromobutyric acid according to Method C.

reactant | N-cycloheptylthiourea | C1(CCCCCC1)NC(=S)N | C8H16N2S
reactant | 2-bromobutyric acid | BrC(C(=O)O)CC | C4H7BrO2
product | 2-(cycloheptylamino)-5-ethyl-1,3-thiazol-4(5H)-one | C1(CCCCCC1)NC=1SC(C(N1)=O)CC | C12H20N2OS
